US08106043B2
tert-Butyl 2-hydroxyethyl(2-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate:
A round bottom flask containing tert-butyl 2-hydroxyethyl(2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate (220 mg, 0.574 mmol) under argon was charged with palladium on activated carbon (10% wt; 61.0 mg, 0.057 mmol). The mixture was purged with argon prior to the addition of EtOH (20 mL). The resulting suspension was evacuated using a pump, and hydrogen was let into the system via a balloon. The mixture was stirred under a balloon filled with hydrogen for 3 hours. The hydrogen balloon was removed, and methyl thiophene-2-carbimidothioate hydroiodide (327 mg, 1.147 mmol) was added to the reaction. The suspension was stirred at room temperature for 17 hours (overnight). After this time, the mixture was filtered through a pad of Celite, which was then rinsed with MeOH (10 mL). The filtrate was concentrated, and the residue was partitioned between saturated sodium bicarbonate solution (50 mL) and CH2Cl2 (100 mL). The mixture was transferred to a separatory funnel and extracted. After extraction, the organic layer was separated, dried (Na2SO4), filtered, and concentrated to give a dark residue. This residue was subjected to flash chromatography on silica gel using 2:98 MeOH/CH2Cl2 followed by 3.5:96.5 (2M NH3 in MeOH):CH2Cl2 to give a yellow solid (140 mg, 52.7%). 1H-NMR (DMSO-d6) δ 7.69 (brd, J=3.0 Hz, 1H), 7.57 (d, J=5.1 Hz, 1H), 7.07 (dd, J=3.9, 4.8 Hz, 1H), 6.82-6.75 (m, 1H), 6.53-6.42 (m, 2H), 6.32 (brs, 2H), 4.73 (t, J=5.4 Hz, 1H), 3.54 (brs, 2H), 3.50-3.42 (m, 2H), 3.38 (brs, 4H, overlap with solvent peak), 3.27-3.19 (m, 2H), 3.08-2.96 (m, 2H), 1.41 (brs, 9H); ESI-MS (m/z, %): 463 (MH+, 100), 398 (60); HPLC purity: 96.4% a/a.

reactant | tert-butyl 2-hydroxyethyl(2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate | 0.574 mmol, 220 mg | OCCN(C(OC(C)(C)C)=O)CCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C17H25N3O5S
reactant | methyl thiophene-2-carbimidothioate hydroiodide | 1.147 mmol, 327 mg | I.S1C(=CC=C1)C(=N)SC
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
reactant | NH3 | 2M | N | H3N
catalyst | palladium on activated carbon | 0.057 mmol, 61.0 mg | [Pd] | Pd
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-hydroxyethyl(2-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate | 140 mg, 52.7% | OCCN(C(OC(C)(C)C)=O)CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C22H30N4O3S2
